US09029399B2
Preparation of the title compound 1-(2-chlorobenzo[b]thiophen-5-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (20A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 100 mg, 0.491 mmol) was reacted with 5-bromo-2-chloro-benzo[b]thiophene-(134.6 mg, 0.541 mmol), copper iodide (9.3 mg, 0.049 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (7.0 mg, 0.0491 mmol), potassium phosphate (260.9 mg, 1.23 mmol) and 1,4-dioxane (5 mL to yield the crude product. Purification by column chromatography on silica gel (1.5% methanol in DCM), afforded 60.0 mg of the product (33% yield)

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.491 mmol, 100 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 5-bromo-2-chloro-benzo[b]thiophene- | 0.541 mmol, 134.6 mg | BrC1=CC2=C(SC(=C2)Cl)C=C1 | C8H4BrClS
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.0491 mmol, 7.0 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.23 mmol, 260.9 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.049 mmol, 9.3 mg | [Cu](I)I
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 1-(2-chlorobenzo[b]thiophen-5-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 60.0 mg, 33% yield | ClC1=CC2=C(S1)C=CC(=C2)N2C(N(CC2)C=2C=NC=CC2C2CC2)=O | C19H16ClN3OS
